US04363808
In this case, the 1H-benzimidazole-1-pentanamine used as the starting material was obtained by first reacting N-(5-bromopentyl)phthalimide with 1H-benzimidazole to give 1-(5-phthalimidopentyl)-1H-benzimidazole which was then treated with hydrazine to give the amine, all according to general procedures known in the art (Houben-Weyl, Vol. XI/1, page 82, George Thieme Verlag, Stuttgart, 1957).

reactant | 1H-benzimidazole-1-pentanamine | N1(C=NC2=C1C=CC=C2)CCCCCN | C12H17N3
reactant | N-(5-bromopentyl)phthalimide | BrCCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C13H14BrNO2
reactant | 1H-benzimidazole | N1C=NC2=C1C=CC=C2 | C7H6N2
product | 1-(5-phthalimidopentyl)-1H-benzimidazole | C1(C=2C(C(N1CCCCCN1C=NC3=C1C=CC=C3)=O)=CC=CC2)=O | C20H19N3O2
